US08030489B2
To a mixture of tert-butyl 3-(1-{[(benzyloxy)carbonyl]amino}cyclopentyl)propanoate (0.58 g), dioxane (17 ml), and palladium-carbon (0.12 g) was added 1 M hydrochloric acid (1.7 ml) under ice-cooling, followed by stirring at room temperature for 1 hour under a hydrogen atmosphere. The insolubles in the reaction mixture were separated by filtration through Celite and the filtrate was concentrated under reduced pressure. The residue was washed with diethyl ether to obtain tert-butyl 3-(1-aminocyclopentyl)propanoate (0.11 g).

reactant | tert-butyl 3-(1-{[(benzyloxy)carbonyl]amino}cyclopentyl)propanoate | 0.58 g | C(C1=CC=CC=C1)OC(=O)NC1(CCCC1)CCC(=O)OC(C)(C)C | C20H29NO4
reactant | hydrochloric acid | 1 M, 1.7 ml | Cl | ClH
catalyst | palladium-carbon | 0.12 g | [C].[Pd]
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 3-(1-aminocyclopentyl)propanoate | 0.11 g | NC1(CCCC1)CCC(=O)OC(C)(C)C | C12H23NO2
